US03981930
Ethynylation of 194 g of citronelliodene acetone was carried out with acetylene in the same manner as in example 20 except that citronellidene acetone was used in place of pseudoionone and 278 g of a crude product was thus obtained. This product was subjected to oxydative-coupling, hydrogenation and hydrogenolysis in sequence in the same manner as in example 20 and squalane was thus obtained in a yield of 36.3 % from citronellidene acetone to squalane.

reactant | acetylene | C#C | C2H2
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 194 g | CC(=O)C | C3H6O
product | squalane | CC(C)CCCC(C)CCCC(C)CCCCC(C)CCCC(C)CCCC(C)C | C30H62
